US06573289B1
Production of 1-(6-Acetoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
A mixture of 1-(6-hydroxynaphthalen-2-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (1.0 g), pyridine (4 ml) and anhydrous acetic acid (4 ml) was stirred at room temperature for 14 h. The reaction mixture was concentrated to dryness, and the residue was dissolved in ethyl acetate and washed with water and saturated aqueous solution of sodium chloride. The solution was dried and concentrated. The residue was crystallized from ethyl acetate-diisopropyl ether to give the titled compound (0.6 g) as a colorless powder.

reactant | 1-(6-hydroxynaphthalen-2-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 1.0 g | OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H32N2O2
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 1-(6-Acetoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 0.6 g | C(C)(=O)OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C19H20N2O3
